US04720586
(b) 2-[3,4-Dimethoxy-2-phenylmethylphenyl]-4,5-dihydro-4,4-dimethyloxazole
A solution of 2-[3,4-Dimethoxyphenyl]-4,5-dihydro 4,4-dimethyloxazole (15 g) in dry tetrahydrofuran (100 ml) under a nitrogen atmosphere was cooled to -45° in a chlorobenzene/dry ice bath. Butyl lithium (45.9 ml 1.6 M solution) was added dropwise and the mixture stirred at -45° for 2 hours. Phenylmethyl bromide (38 ml) was then added dropwise and the mixture allowed to stir at 20° for 16 hours. The mixture was quenched with brine and the aqueous phase extracted with ether. The organic phase was separated, dried over magnesium sulphate, filtered and evaporated to leave a solid. Purification by flash chromatography (30% ether/40/60 petrol) gave the title compound as a colourless solid (10.58 g); mp 81°-82°.

reactant | 2-[3,4-Dimethoxyphenyl]-4,5-dihydro 4,4-dimethyloxazole | 15 g | COC=1C=C(C=CC1OC)C=1OCC(N1)(C)C | C13H17NO3
reactant | Butyl lithium | 1.6 M, 45.9 ml | C(CCC)[Li]
reactant | Phenylmethyl bromide | 38 ml | C1(=CC=CC=C1)CBr | C7H7Br
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-[3,4-Dimethoxy-2-phenylmethylphenyl]-4,5-dihydro-4,4-dimethyloxazole | 10.58 g | COC=1C(=C(C=CC1OC)C=1OCC(N1)(C)C)CC1=CC=CC=C1 | C20H23NO3
